US06472416B1
73B. Ethyl 3-(4-fluorophenyl)-2-(4-(methylthio)phenyl)-3-oxopropanoate
1 N Lithium bis(trimethylsilyl)amide (25 mL, 25 mmol) was added dropwise to a solution of ethyl 2-(4-(methylthio)phenyl)acetate (5.05 g, 24 mmol), prepared according to the method of Example 73A, in THF (20 mL) maintained at −78° C. After 15 minutes the mixture was treated dropwise with a solution of 4-fluorobenzoyl chloride (2.85 mL, 24 mmol) in THF (50 mL), and the resulting mixture was stirred at −78° C. for 90 minutes. The mixture was quenched with saturated NH4Cl and extracted with ethyl acetate. The acetate layer was washed with water, brine, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was triturated with hexanes:ether, 15:1, to provide the desired product (yield: 7.25 g; 90%). MS (DCI-NH3) m/z 333 (M+H)+, 350 (M+NH4)+; 1H NMR (300 MHz, DMSO) δ1.18 (m, 3H), 2.45 (s, 3H), 4.15 (m, 2H), 6.15 (s, 1H), 7.23 (m, 2H), 7.35 (m, 4H), 7.85 (d, J=9 Hz, 2H).

reactant | Lithium bis(trimethylsilyl)amide | 25 mmol, 1 N, 25 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl 2-(4-(methylthio)phenyl)acetate | 24 mmol, 5.05 g | CSC1=CC=C(C=C1)CC(=O)OCC | C11H14O2S
reactant | 4-fluorobenzoyl chloride | 24 mmol, 2.85 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4-fluorophenyl)-2-(4-(methylthio)phenyl)-3-oxopropanoate | yield: 7.25 g, 90% | FC1=CC=C(C=C1)C(C(C(=O)OCC)C1=CC=C(C=C1)SC)=O | C18H17FO3S
